US03966758
A. 2,3-Dichlorobenzyl alcohol
A 20.0 (0.105 mole) portion of 2,3-dichlorobenzoic acid in 100 ml of toluene was treated with 254 ml (0.315 mole) of diisobutylaluminum hydride (25% in hexane), under a stream of dry nitrogen, at 15°-20° over 0.5 hours using rapid stirring. The reaction mixture was allowed to warm to room temperature over 0.5 hours, heated to reflux over 0.5 hours, refluxed for 1.5 hours, allowed to cool slowly to room temperature, and stored overnight at room temperature. The reaction mixture was then treated with a solution of 100 ml of methanol in 100 ml of water at 10°-15°, followed by 100 ml of concentrated hydrochloric acid at 20°-25°, and 165 ml of water. The organic layer was separated, washed with 50 ml of 5% sodium bicarbonate, 50 ml of water, dried over magnesium sulfate overnight and filtered. The filtrate was concentrated to dryness to given 17.0 g (91%) of a light tan solid, m.p. 81°-84°.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | diisobutylaluminum hydride | 0.315 mole, 254 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | water | 165 ml | O | H2O
product | 2,3-Dichlorobenzyl alcohol | ClC1=C(CO)C=CC=C1Cl | C7H6Cl2O
